US09403810B2
Step 2: 2-(4,4-Dimethylcyclopent-1-en-1-yl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane
To a stirred solution of 4,4-dimethylcyclopent-1-en-1-yl trifluoromethanesulfonate (367 mg, 1.503 mmol) in dry 1,4-dioxane (10 mL) was added bis(pinacolato)diboron (Alfa Aesar) (382 mg, 1.503 mmol) followed by potassium acetate (Acros) (295 mg, 3.01 mmol) and PdCl2(dppf).CH2Cl2 adduct (Alfa Aesar) (36.8 mg, 0.045 mmol). The reaction mixture was heated at 80° C. and stirred for 16 hours. The resulting mixture was cooled to room temperature and filtered through Celite®, washing with TBME (100 mL). The organic filtrate was washed with water (50 mL), brine (30 mL), dried over MgSO4, filtered and concentrated under reduced pressure to give a brown oil. The crude material was adsorbed onto silica and purification by chromatography eluting with 100% iso-hexane afforded the title compound;

reactant | 4,4-dimethylcyclopent-1-en-1-yl trifluoromethanesulfonate | 1.503 mmol, 367 mg | FC(S(=O)(=O)OC1=CCC(C1)(C)C)(F)F | C8H11F3O3S
reactant | bis(pinacolato)diboron | 1.503 mmol, 382 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 3.01 mmol, 295 mg | C(C)(=O)[O-].[K+]
reactant | CH2Cl2 | 0.045 mmol, 36.8 mg | C(Cl)Cl | CH2Cl2
solvent | 1,4-dioxane | 10 mL | O1CCOCC1 | C4H8O2
catalyst | PdCl2(dppf) | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 2-(4,4-Dimethylcyclopent-1-en-1-yl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | CC1(CC=C(C1)B1OC(C(O1)(C)C)(C)C)C | C13H23BO2
